US06515185B1
As a process for producing cyclododecanone and cyclododecanol by a catalytic reaction of epoxycyclododecane compounds with hydrogen, J. Mol. Catal., Vol 169, pp 95-103 (1991) discloses a catalytic hydrogenating reaction of 2-epoxy-5,9-cyclododecadiene with hydrogen. In this reaction of the reference, 1,2-epoxy-5,9-cyclododecadiene is brought into contact with hydrogen in the presence of a palladium-carrying catalyst at a reaction temperature of 90° C. under a hydrogen gas pressure of 1,275 kPa (13 kg/cm2) on gauge, and epoxycyclododecane is produced as a principal reaction product. Cyclododecanol is produced as a by-product in a yield of 4% and no cyclododecanone is produced. Also, the Draft of 24-th Symposium “Development of Reaction and Synthesis, Nov. 5-6, 1998, pp 68, discloses a process of catalytic reaction of 1,2-epoxy-5,9-cyclododecadiene with hydrogen in the presence of a palladium catalyst at room temperature under the ambient atmospheric pressure. In this process, epoxycyclododecane is produced as a principal product, cyclododecanol is produced, as a by-product, in a yield of 5%, and no cyclododecanone is produced.

reactant | 1,2-epoxy-5,9-cyclododecadiene | O1C2C1CCC=CCCC=CCC2 | C12H18O
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | epoxycyclododecane | O1C2C1CCCCCCCCCC2 | C12H22O
